* source BR0101_AD9715
R_R1         0 N06641  681 TC=0,0 
R_R2         N06641 N06629  1.8k TC=0,0 
R_R3         N06673 N06665  1.8k TC=0,0 
R_R4         0 N06673  681 TC=0,0 
V_V1         0 N06538 5V
V_V2         N06608 0 5V
I_I1         0 N06641 DC {x}  
I_I2         0 N06673 DC {2mA - x}  
X_U2         N06693 N06641 N06608 N06538 N06629 N06629 N06608 ADA4899 
X_U3         N06693 N06673 N06608 N06538 N06665 N06665 N06608 ADA4899 
V_V3         N06693 0 1V
