* source BR0101_AD9715
R_R1         0 N06641  681 TC=0,0 
R_R2         N06641 VOP  1.8k TC=0,0 
R_R3         N06673 VON  1.8k TC=0,0 
R_R4         0 N06673  681 TC=0,0 
V_V1         0 N06538 5V
V_V2         N06608 0 5V
I_IP         0 N06641 DC {x}  
I_IN         0 N06673 DC {2m - x}  
X_U2         N06725 N06641 N06608 N06538 VOP VOP N06608 ADA4899 
X_U3         N06725 N06673 N06608 N06538 VON VON N06608 ADA4899 
R_R5         N06725 N06693  10k TC=0,0 
V_V3         N06693 0 1V
.PARAM  x=1m
